### ISSUE TITLE
(deterministic) timeout at `whnf` when unfolding a mutual definition

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1287]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Steps to Reproduce

```lean
inductive Foo (n : Nat) : Nat → Type
| foo  (t : Foo n (l + 1)) : Foo n l
deriving DecidableEq

inductive Bar (m: Nat): Nat → Type where
| bar : Bar m m

@[simp]
def size [∀ l, SizeOf (Foo n l)]: List (Σl, Foo n l × Foo n l) → Nat 
| [] => 0
| ⟨_, t₁, t₂⟩ :: tl => size tl + 1 + sizeOf t₁ + sizeOf t₂

mutual 
  def func (b: Bar n' n): List (Σl, Foo n l × Foo n l) → Option (Σ m, Bar n' m)
  |                [] => .some ⟨_,b⟩
  | ⟨_, t₁, t₂⟩ :: tl => 
    if heq:t₁ = t₂ then func b tl
    else if let n + 1 := n then func_ne heq b tl 
    else .none

  def func_ne {t₁ t₂: Foo (n+1) l} (hne: t₁ ≠ t₂) (b: Bar n' (n+1)) (tl: List (Σl, Foo (n+1) l × Foo (n+1) l)): Option (Σ m, Bar n' m) := 
    match t₁, t₂ with
    | .foo t₁, .foo t₂ => func b (⟨_, t₁, t₂⟩::tl)
end
termination_by 
  func    tl => (n  , size              tl , 1)
  func_ne    => (n+1, size (⟨_, t₁, t₂⟩::tl), 0)

set_option maxHeartbeats 1000000
  example
    {t₁ t₂: Foo (n+1) l}
    (h': t₁ ≠ t₂)
    (h: func_ne h' b' tl = some ⟨_, b⟩):
    func b' (⟨_, t₁, t₂⟩::tl) = some ⟨_, b⟩ := by
    unfold func
    sorry 
```

**Expected behavior:** `unfold` takes some reasonable time

**Actual behavior:** get error message:

```
(deterministic) timeout at 'whnf', maximum number of heartbeats (1000000) has been reached (use 'set_option maxHeartbeats <num>' to set the limit)
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-07-06`

**Comment by leodemoura** [comment]
The commit above reduced the runtime from 41 secs to 5 secs on my machine.
I also used the command 
```lean
attribute [simp] func
```
to generate the equality theorems before we start the example.
```lean
attribute [simp] func

example
  {t₁ t₂: Foo (n+1) l}
  (h': t₁ ≠ t₂)
  (h: func_ne h' b' tl = some ⟨_, b⟩):
  func b' (⟨_, t₁, t₂⟩::tl) = some ⟨_, b⟩ := by
  unfold func
  done
```

I will continue investigating.

**Comment by leodemoura** [comment]
Commit above reduced runtime from 5 secs to 1.8 secs on my machine.
